US05998439
Combine 1-(t-butoxycarbonyl)-4-(1H-benzoimidazole-2-carbonyl)-piperidine (1.50 g, 4.57 mmol), 4-fluorobenzyl alcohol (0.50 mL, 4.58 mmol) and triphenylphosphine (1.44 g, 5.50 mmol) in tetrahydrofuran (15 mL). Add diethylazodicarboxylate (0.87 mL, 5.50 mmol) dropwise at room temperature. After 23 hours, evaporate the reaction mixture in vacuo to give a residue. Chromatograph the residue on silica gel eluting with 25% ethyl acetate/hexane to give 1-(t-butoxycarbonyl)-4-(1-(4-fluoro-benzyl)-1H-benzoimidazole-2-carbonyl)-piperidine.

reactant | 1-(t-butoxycarbonyl)-4-(1H-benzoimidazole-2-carbonyl)-piperidine | 4.57 mmol, 1.50 g | C(C)(C)(C)OC(=O)N1CCC(CC1)C(=O)C1=NC2=C(N1)C=CC=C2 | C18H23N3O3
reactant | 4-fluorobenzyl alcohol | 4.58 mmol, 0.50 mL | FC1=CC=C(CO)C=C1 | C7H7FO
reactant | triphenylphosphine | 5.50 mmol, 1.44 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethylazodicarboxylate | 5.50 mmol, 0.87 mL | CCOC(=O)/N=N/C(=O)OCC | C6H10N2O4
solvent | tetrahydrofuran | 15 mL | O1CCCC1 | C4H8O
solvent | ethyl acetate hexane | C(C)(=O)OCC.CCCCCC
product | 1-(t-butoxycarbonyl)-4-(1-(4-fluoro-benzyl)-1H-benzoimidazole-2-carbonyl)-piperidine | C(C)(C)(C)OC(=O)N1CCC(CC1)C(=O)C1=NC2=C(N1CC1=CC=C(C=C1)F)C=CC=C2 | C25H28FN3O3
